US04500541
A solution of 2.59 g of 1-amino-3-cyclopropyl-3-p-trifluoromethylphenoxy-propane (obtainable by a condensation reaction of ethyl cyclopropanecarboxylate with ethyl acetate to give ethyl 3-cyclopropyl-propan-3-on-1-oate; reduction of the latter to ethyl 3-cyclopropyl-propan-3-ol-1-oate; reaction of the latter with p-trifluoromethylphenol analogously to Example 3, to give ethyl 3-cyclopropyl-3-p-trifluoromethylphenoxy-propanoate; reaction with NH3 to give the amide; and reduction of the latter with LiAlH4) and 1.5 g of benzaldehyde in 25 ml of toluene is boiled for one hour under a water separator. The solution of the resulting 1-benzylideneamino-3-cyclopropyl-3-p-trifluoromethylphenoxy-propane is heated with 5 g of methyl iodide for 12 hours at 150° in a tube and then evaporated. The resulting quaternary salt is boiled for 10 minutes in 90% ethanol. The mixture is again evaporated, the residue is taken up in dilute hydrochloric acid and the benzaldehyde which has been split off is removed by extraction with ether. The acid, aqueous solution is rendered alkaline with sodium hydroxide solution and worked up in the customary manner. 1-Methylamino-3-cyclopropyl-3-p-trifluoromethylphenoxypropane is obtained. Rf 0.22 (A).

reactant | ethyl cyclopropanecarboxylate | C1(CC1)C(=O)OCC | C6H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-cyclopropyl-propan-3-on-1-oate | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
